US05344843
A mixture of 4-[[2-(4-methoxyphenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.77 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction with dichloromethane provided material which solidified and was crystallized from diethyl ether-hexane to give 0.65 g of colorless 4-[[2-(4-methoxyphenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid, mp 138°-139° C.

reactant | 4-[[2-(4-methoxyphenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.77 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)OC)=O)=O | C18H18O6
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | 4-[[2-(4-methoxyphenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.65 g | COC1=CC=C(OCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=C1 | C17H16O6
